US05463077
0.35 cm3 of triethylamine and then 0.33 cm3 of phenylacetyl chloride are added to a suspension of 1.1 g of (3aRS,4RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)-perhydroisoindol-4-ol hydrochloride in 25 cm3 of dry methylene chloride at room temperature. The reaction mixture is stirred at this temperature for 24 hours, diluted with 200 cm3 of methylene chloride, washed with 100 cm3 of a saturated solution of sodium bicarbonate, with 100 cm3 of water (twice) and then with an aqueous saturated solution of sodium chloride, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed over a Merck silica gel column (particle size 0.04-0.06 mm, diameter 2 cm, height 22 cm) by eluting under a pressure of 0.5 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (55/45 by volume) and collecting fractions of 20 cm3. Fractions 11 to 18 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is crystallised in 70 cm3 of acetonitrile and the crystals are filtered off and dried. 0.5 g of (3aRS,4RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-phenylacetyl-perhydroisoindol-4-ol is obtained in the form of a white solid.

reactant | triethylamine | 0.35 cm3 | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | 0.33 cm3 | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | (3aRS,4RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)-perhydroisoindol-4-ol hydrochloride | 1.1 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1
solvent | methylene chloride | 25 cm3 | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 cm3 | C(Cl)Cl | CH2Cl2
product | (3aRS,4RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-phenylacetyl-perhydroisoindol-4-ol | 0.5 g | C1(=CC=CC=C1)C1(CCC(C2CNC(C12)C(CC1=CC=CC=C1)=O)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C35H35NO3
